US05478851
5-(4-[2-(N-(5-Chloro-2-methoxybenzoyl)amino)ethoxy]benzyl)-2,4-thiazolidinedione.
5-(4-[2-(N-(5-Chloro-2-methoxybenzoyl)amino)ethoxy]-benzylidene)-2,4-thiazolidinedione (1.7 g) was dissolved in dioxan (80 ml) and hydrogenated for a total of 22 hours in a manner similar to that described in Example 2. The title compound was obtained as a foam, mp 66-67° C.

reactant | 5-(4-[2-(N-(5-Chloro-2-methoxybenzoyl)amino)ethoxy]-benzylidene)-2,4-thiazolidinedione | 1.7 g | ClC=1C=CC(=C(C(=O)NCCOC2=CC=C(C=C3C(NC(S3)=O)=O)C=C2)C1)OC | C20H17ClN2O5S
solvent | dioxan | 80 ml | O1CCOCC1 | C4H8O2
product | 5-(4-[2-(N-(5-Chloro-2-methoxybenzoyl)amino)ethoxy]benzyl)-2,4-thiazolidinedione | ClC=1C=CC(=C(C(=O)NCCOC2=CC=C(CC3C(NC(S3)=O)=O)C=C2)C1)OC | C20H19ClN2O5S
